US04027023
Thionyl chloride (15 ml.) and dimethylformamide (1 drop) were added to ethyl 4-hydroxy-6-phenylcinnolin-3-yl carboxylate (0.30 g.). The mixture was gradually heated to boiling point and then heated under reflux until the evolution of gases ceased. The solution was evaporated under reduced pressure. The residue was dissolved in dry toluene (20 ml.) and the solution evaporated; this operation was then repeated. The residue was dissolved in a mixture of dimethylformamide (5 ml.) and ethyl acetate (30 ml.). The solution was stirred and sodium borohydride (0.25 g.) was added. The mixture was stirred for 2 hours and then added to a mixture of N-hydrochloric acid (10 ml.) and ethyl acetate (50 ml.). The mixture was separated and the ethyl acetate layer was washed with water (3 × 20 ml.), dried (MgSO4), filtered, and the filtrate evaporated under reduced pressure. The residue (which comprised ethyl 6-phenyl-1,4-dihydrocinnolin-3-yl carboxylate) was dissolved in dry toluene (50 ml.). Lead tetraacetate (1 g.) was added, and the mixture was stirred for 2 hours. The mixture was shaken with water (50 ml.), and separated. The organic layer was washed with water (3× 50 ml.), dried (MgSO4), filtered, and the filtrate evaporated under reduced pressure. The residue was crystallised from a mixture of ethyl acetate and petroleum ether (b.p. 60°-80° C.) to give ethyl 6-phenylcinnolin-3-yl carboxylate, m.p. 160°-2° C.

reactant | Thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl 4-hydroxy-6-phenylcinnolin-3-yl carboxylate | 0.30 g | OC1=C(N=NC2=CC=C(C=C12)C1=CC=CC=C1)C(=O)OCC | C17H14N2O3
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | ethyl 6-phenylcinnolin-3-yl carboxylate | C1(=CC=CC=C1)C=1C=C2C=C(N=NC2=CC1)C(=O)OCC | C17H14N2O2
